US07968535B2
7,12-Dihydropyrido[3′,2′:2,3]azepino[4,5-b]indol-6(5H)-one (10k)
Prepared according to general procedure B from 72.4 mg (0.27 mmol) 7,8-dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-(phenylhydrazone) in 30 ml diphenyl ether. Recrystallization from ethanol afforded a brown solid. Yield: 17 mg (25%); m.p. >330° C.; IR (KBr): 3054 cm−1 (CH-arom.), 2974 cm−1 (CH-aliph.), 1675 cm−1 (C═O), 1H-NMR (d6-DMSO, 400 MHz): δ (ppm)=3.66 (s, 2H, azepine-CH2), 7.06-7.09 (m, 1H, arom. H), 7.18-7.22 (m, 1H, arom. H), 7.40 (dd, 1H, 8.2/4.5 Hz, arom. H), 7.47 (d, 1H, 8.2 Hz, arom. H), 7.62 (dd, 1H, 8.2/1.4 Hz, arom. H), 7.70 (d, 1H, 8.0 Hz, arom. H), 8.48 (dd, 1H, 4.5/1.4 Hz, arom. H), 10.22 (s, 1H, NH), 11.70 (s, 1H, NH); 13C-NMR (DMSO-d6, 100.6 MHz): δ (ppm)=31.9 (azepine-CH2), 111.9, 118.4, 119.1, 122.5, 122.8, 129.3, 144.3 (tert. arom. C), 108.9, 126.3, 132.0, 132.5, 137.5, 140.5 (quat. arom. C), 171.1 (C═O); C15H11N3O (249.27); purity (HPLC): 98.8% (ts=3.25 min, acetonitrile/water 35:65).

reactant | 7,8-dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-(phenylhydrazone) | 0.27 mmol, 72.4 mg | C1(=CC=CC=C1)NN=C1C2=C(NC(CC1)=O)C=CC=N2 | C15H14N4O
reactant | KBr | [K+].[Br-]
reactant | acetonitrile water | C(C)#N.O
solvent | diphenyl ether | 30 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7,12-Dihydropyrido[3′,2′:2,3]azepino[4,5-b]indol-6(5H)-one | N1=CC=CC=2NC(CC3=C(NC4=CC=CC=C34)C21)=O | C15H11N3O
